US04512990
Preparation of 6-methoxy-1-(1,2,3,4-tetrahydroquinolin-1-yl)hexane
A solution of the above 1-(6-methoxyhexanoyl)-1,2,3,4-tetrahydroquinoline (2.7 g) in ether (200 ml) containing lithium aluminium hydride (9.9 g) was refluxed for 6 hours, then cooled and diluted with water. The ethereal solution was dried and evaporated and the residue was chromatographed on silica gel, eluting with 99:1 methylene chloride:methanol, so as to obtain the title compound as an oil.

reactant | 1-(6-methoxyhexanoyl)-1,2,3,4-tetrahydroquinoline | 2.7 g | COCCCCCC(=O)N1CCCC2=CC=CC=C12 | C16H23NO2
reactant | lithium aluminium hydride | 9.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 6-methoxy-1-(1,2,3,4-tetrahydroquinolin-1-yl)hexane | COCCCCCCN1CCCC2=CC=CC=C12 | C16H25NO
